US06734203B2
2 M Dimethylamine/tetrahydrofuran solution (3.0 ml) was added to a solution of 2-chloro-N-[1,4-dihydro-3-(2-methoxyethyl)amino-1,4-dioxo-2-naphthalenyl]-N-methylacetamide (0.5 g) in tetrahydrofuran (30 ml) and the mixture was stirred at room temperature for 18 hours. Water was added to the reaction solution and the mixture was extracted with ethyl acetate. The organic layer was washed with water and brine and then dried over anhydrous magnesium sulfate. The solvent was evaporated and the residue was crystallized from ethanol to give N-[1,4-dihydro-3-(2-methoxyethyl)amino-1,4-dioxo-2-naphthalenyl]-N-methyl-2-(dimethylamino)acetamide (0.19 g) as a brown powder.

reactant | Dimethylamine tetrahydrofuran | 2 M, 3.0 ml | CNC.O1CCCC1
reactant | 2-chloro-N-[1,4-dihydro-3-(2-methoxyethyl)amino-1,4-dioxo-2-naphthalenyl]-N-methylacetamide | 0.5 g | ClCC(=O)N(C)C=1C(C2=CC=CC=C2C(C1NCCOC)=O)=O | C16H17ClN2O4
reactant | Water | O | H2O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | N-[1,4-dihydro-3-(2-methoxyethyl)amino-1,4-dioxo-2-naphthalenyl]-N-methyl-2-(dimethylamino)acetamide | 0.19 g | COCCNC1=C(C(C2=CC=CC=C2C1=O)=O)N(C(CN(C)C)=O)C | C18H23N3O4
